US08497264B2
In a microwave vial, 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.062 g, 0.297 mmol), (S)-5-(tert-butoxycarbonylamino)-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (0.145 g, 0.238 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.027 g, 0.024 mmol) were taken up in DMF (3 mL). Aqueous sodium carbonate (1.0 M, 0.714 mL, 0.714 mmol) was added. Argon was blown through the vessel which was sealed and placed in an 85° C. oil bath. After 3 h, the reaction was concentrated. The residue was diluted with water (15 mL) and the aqueous phase was extracted with 3% MeOH/DCM (3×25 mL). The organics were combined, washed with brine (7 mL), dried over sodium sulfate and concentrated. The residue was transferred to a microwave vial with 3 mL of DCMm and tfa (0.275 mL, 3.57 mmol) was added. The vial was sealed and the reaction was stirred in a 65° C. oil bath for 2 h. The reaction was concentrated. The residue was neutralized with 0.5 M Na2CO3 (13 mL). The aqueous phase was extracted with 5% MeOH/DCM (3×25 mL). The organics were combined, washed with dilute brine (8 mL), dried over sodium sulfate and concentrated. The residue was purified by chromatography (7%-8% MeOH/DCM) to afford (R)-2′-(3,6-dihydro-2H-pyran-4-yl)-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (65 mg, 0.146 mmol).

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.297 mmol, 0.062 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | (S)-5-(tert-butoxycarbonylamino)-2′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.238 mmol, 0.145 g | FC(S(=O)(=O)OC1=CC=C2OC=3C=CC(=CC3[C@]3(C2=C1)COCC(=N3)NC(=O)OC(C)(C)C)C=3C(=NC=CC3)F)(F)F | C27H23F4N3O7S
reactant | sodium carbonate | 0.714 mmol, 1.0 M, 0.714 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-2′-(3,6-dihydro-2H-pyran-4-yl)-7′-(2-fluoropyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.146 mmol, 65 mg | O1CCC(=CC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)C=1C(=NC=CC1)F)COCC(=N3)N | C26H22FN3O3
